US04496720
A mixture consisting of 12.21 g (56.5 mmoles) of 4-chlorophenylthio(trimethyl)silane, 20 ml of hexamethylphosphoric triamide and 18.7 ml (226 mmoles) of 1-bromo-2-chloroethane was heated at 60° C. and it was established that the conversion was complete after 10 minutes. After treating the reaction mixture as described in Example 3, there were obtained 10.03 g (85.7% yield) of 2-chloroethyl 4-chlorophenyl sulfide boiling at 105°-109° C./1.0 mm Hg and melting at 28°-29° C. The residue of the distillation contained 1,2-bis(4-chlorophenylthio)ethane as a by-product which after crystallization from methanol melted at 87°-88° C.

reactant | 4-chlorophenylthio(trimethyl)silane | 56.5 mmoles, 12.21 g | ClC1=CC=C(C=C1)S[Si](C)(C)C | C9H13ClSSi
reactant | 1-bromo-2-chloroethane | 226 mmoles, 18.7 ml | BrCCCl | C2H4BrCl
solvent | hexamethylphosphoric triamide | 20 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 2-chloroethyl 4-chlorophenyl sulfide | 10.03 g, 85.7% yield | ClC1=CC=C(C=C1)SCCCl | C8H8Cl2S
